US07326791B2
3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[2-(methyloxycarbonyl)pyrrolidin-1-ylcarbonyl]benzamide
Prepared analogously to Example 1d from rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, rac.-2-(methyloxycarbonyl)pyrrolidine, PFTU, and diisopropylethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 4.30 minutes; C23H22C12N4O4 (489.36); mass spectrum: (M−H)−=488/490/492 (chlorine isotope).

reactant | rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | rac.-2-(methyloxycarbonyl)pyrrolidine | COC(=O)C1NCCC1 | C6H11NO2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chlorine | ClCl | Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[2-(methyloxycarbonyl)pyrrolidin-1-ylcarbonyl]benzamide | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(CCC1)C(=O)OC | C23H22Cl2N4O4
